US08258134B2
A solution of 3-cyclopentyl-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[5-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-propionamide (685 mg, 1.26 mmol) in methanol (12.6 mL, 0.1 M) and methylene chloride (5 mL) was treated with para-toluenesulfonic acid (36 mg, 0.18 mmol). The reaction stirred at 25° C. overnight. At this time, the reaction was diluted with ethyl acetate (100 mL) and washed with a saturated aqueous sodium bicarbonate solution (150 mL), water (150 mL), and a saturated aqueous sodium chloride solution (150 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[5-((R)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide as an off-white solid (0.50 g, 81%); ES+-HRMS m/e calcd for C24H25N5O5F2 [M+H+] 502.1897 found 502.1894. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.04-1.21 (m, 1H), 1.27-1.85 (m, 8H), 1.91-2.08 (m, 1H), 2.22-2.41 (m, 1H), 3.50-3.62 (m, 1H), 3.62-3.73 (m, 1H), 4.62 (q, J=5.1 Hz, 1H), 4.72 (t, J=5.7 Hz, 1H), 5.52-5.64 (m, 2H), 6.07 (d, J=2.5 Hz, 1H), 7.33-7.56 (m, 3H), 8.31 (d, J=2.5 Hz, 1H), 8.45 (s, 1H), 9.13 (s, 1H), 11.25 (br. s., 1H).

reactant | 3-cyclopentyl-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[5-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-pyrazin-2-yl]-propionamide | 1.26 mmol, 685 mg | C1(CCCC1)CC(C(=O)NC1=NC=C(N=C1)[C@H]1OC(OC1)(C)C)N1N=CC(=CC1=O)OC1=C(C=CC=C1F)F | C27H29F2N5O5
reactant | para-toluenesulfonic acid | 0.18 mmol, 36 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 0.1 M, 12.6 mL | CO | CH4O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-2-[4-(2,6-difluoro-phenoxy)-6-oxo-6H-pyridazin-1-yl]-N-[5-((R)-1,2-dihydroxy-ethyl)-pyrazin-2-yl]-propionamide | 0.50 g, 81% | C1(CCCC1)CC(C(=O)NC1=NC=C(N=C1)[C@H](CO)O)N1N=CC(=CC1=O)OC1=C(C=CC=C1F)F | C24H25F2N5O5
